US08476429B2
Methyl 4-ethyl-3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidon-3-yl-carboxylate
To a solution of the methyl 3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate (stereoisomer A) produced in Reference Example 31 (19.86 g, 76.0 mmol) and hexamethylphosphoric triamide (30 mL) in tetrahydrofuran (300 mL), a solution of lithium diisopropyl amide in heptane, tetrahydrofuran, and ethylbenzene (1.8M, 63.3 mL, 113.9 mmol) was gradually added in 15 minutes at −78° C. After stirring the mixture at −78° C. for 30 minutes, ethyl iodide (12.2 mL, 152.0 mmol) was added dropwise at the same temperature in 10 minutes. After stirring at −78° C. for 1 hour, the mixture was quenched by adding saturated aqueous solution of ammonium chloride (100 mL). The reaction mixture was extracted with ethyl acetate (300 mL), and the organic layer was washed with water (200 mL×2) and saturated aqueous solution of sodium chloride (200 mL). After drying with anhydrous sodium sulfate, the dessicating agent was removed by filtration, and the solvent was removed by distillation under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate, 90:10→85:15→4 80:20) to obtain 10.63 g of the title compound (a mixture of stereoisomers of position 4, 36.7 mmol, 48%) as a pale yellow oil.

reactant | methyl 3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate | CC1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC | C15H19NO3
reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethylbenzene | 113.9 mmol, 1.8M, 63.3 mL | C(C)C1=CC=CC=C1 | C8H10
reactant | ethyl iodide | 152.0 mmol, 12.2 mL | C(C)I | C2H5I
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
solvent | hexamethylphosphoric triamide | 30 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Methyl 4-ethyl-3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidon-3-yl-carboxylate | 10.63 g | C(C)C1C(C(N(C1=O)[C@H](C)C1=CC=CC=C1)=O)(C)C(=O)OC | C17H21NO4
